Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
epinephrine
 
Attending: ___.
 
Chief Complaint:
pulmonary embolism
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:  Ms. ___ is a ___ with recent 
right total hip ___ and HTN who was transferred from OSH for 
PE and DVT. She initially presented to OSH for a muscle 
twinge/pulsation in RUQ to right lower chest for two days. 
Denies SOB or cough. Reports when she would walk the right ankle 
would swell but no constant swelling or pain in her legs. Denies 
chest pain. Reports that she saw PCP yesterday for the 
pulsation, walked around office and oxygen was at 95%. Reports 
the pulsation continued this morning so went to ___. 
Ultrasound showed clot in mid and proximal right femoral vein. 
CT imaging bilateral pulmonary emboli with right heart strain. 
High risk submassive with clot in the leg. No contraindication 
to anticoagulation. Denies history of bleeding, travel, family 
history of blood disorders or strokes. 

In the ED, initial vital signs were: RR ___, HR 92-100 BP 
130s-150s/70s. O2 sat 92-97% 2L NC.  
- Studies include: OSH CT chest and ___ US
- Patient was started on heparin gtt 12.2 ml/hr

Upon arrival to the floor, the patient is comfortable and denies 
chest pain, difficulty breathing, or leg pain.   
 
 
Past Medical History:
Osteoarthritis
Hypertension
Skin cancer
Breast cyst removal
Vaginal cystocoele removal
 
Social History:
___
Family History:
She has two sisters, one of whom had a PE in the past year.

 
Physical Exam:
Admission PHYSICAL EXAM:  
VS:  T 98.3  HR 92 RR 22 BP 144/72 O2 sat 94% 2L NC
GENERAL: AOx3, NAD  
HEENT: Normocephalic, atraumatic. PEERL, MMM
NECK: Normal ROM, no lymphadenopathy 
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops. 
No JVD.  
LUNGS: Clear to auscultation bilaterally.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants
EXTREMITIES: No clubbing, cyanosis, or edema, no sign of 
atrophy/hypertrophy. Surgical incision present on right hip, 
appears c/d/I without pus, tenderness, or exudate. Well-healing. 
Also has a puncture site at lateral aspect of right knee
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy  
NEUROLOGIC: CN2-12 intact. ___ strength througout. Normal 
sensation. No ataxia, dysmetria, disdiadochokinesia. Gait is 
normal.  

Discharge PHYSICAL EXAM:  
VS:  Tmax 98.2   BP 150-160s/70-80s   HR ___   RR 18   O2 sat 
___ RA
GENERAL: AOx3, NAD  
HEENT: Normocephalic, atraumatic. PEERL, MMM
NECK: Normal ROM, no lymphadenopathy 
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops. 
No JVD. No splitting.  
LUNGS: Clear to auscultation bilaterally.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants
EXTREMITIES: No clubbing, cyanosis, or edema, no sign of 
atrophy/hypertrophy. Surgical incision present on right hip, 
appears c/d/I without pus, tenderness, or exudate. Well-healing. 
Also has a puncture site at lateral aspect of right knee
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy  
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal 
sensation. No ataxia, dysmetria, disdiadochokinesia. Gait is 
normal.  
 
Pertinent Results:
Admission Labs:
___ 04:50PM BLOOD WBC-7.7 RBC-4.00 Hgb-11.4 Hct-34.8 MCV-87 
MCH-28.5 MCHC-32.8 RDW-12.4 RDWSD-39.7 Plt ___
___ 04:50PM BLOOD Neuts-78.8* Lymphs-12.5* Monos-7.0 
Eos-0.9* Baso-0.4 Im ___ AbsNeut-6.08 AbsLymp-0.96* 
AbsMono-0.54 AbsEos-0.07 AbsBaso-0.03
___ 04:50PM BLOOD ___ PTT-80.7* ___
___ 04:50PM BLOOD Plt ___
___ 04:50PM BLOOD Glucose-99 UreaN-9 Creat-0.6 Na-140 K-4.1 
Cl-102 HCO3-24 AnGap-18
___ 04:50PM BLOOD cTropnT-<0.01 proBNP-257

Discharge Labs:
___ 08:05AM BLOOD WBC-7.1 RBC-3.69* Hgb-10.6* Hct-32.6* 
MCV-88 MCH-28.7 MCHC-32.5 RDW-12.4 RDWSD-40.4 Plt ___
___ 08:05AM BLOOD Glucose-96 UreaN-11 Creat-0.7 Na-139 
K-4.6 Cl-101 HCO3-25 AnGap-18
___ 08:05AM BLOOD Calcium-9.1 Phos-3.8 Mg-2.1

Imaging:
Echo ___:
The left atrial volume index is normal. The estimated right 
atrial pressure is ___ mmHg. Normal left ventricular wall 
thickness, cavity size, and regional/global systolic function 
(biplane LVEF = 65 %). The estimated cardiac index is normal 
(>=2.5L/min/m2). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 

IMPRESSION: Normal biventricular cavity sizes with preserved 
regional and global biventricular systolic function. Normal 
estimated PA systolic pressure. No valvular pathology or 
pathologic flow identified.

CLINICAL IMPLICATIONS: 
Based on ___ AHA endocarditis prophylaxis recommendations, the 
echo findings indicate prophylaxis is NOT recommended. Clinical 
decisions regarding the need for prophylaxis should be based on 
clinical and echocardiographic data.  
 
Brief Hospital Course:
Ms. ___ is a ___ with recent right total hip ___ and HTN 
who was transferred from OSH for PE and DVT (mid and proximal 
right femoral vein) provoked by a recent total hip replacement

# Provoked submassive pulmonary embolism: Pt had a hip 
replacement at ___ on ___. She was on Aspirin 325 
mg BID after surgery for prophylaxis. She then presented to her 
PCP with due to a "pulsing" feeling of right hip area, and was 
found to have DVT on ultrasound and bilateral PE on CTA. The CTA 
also showed concern for right heart strain. She was transferred 
to ___, where she was started on a heparin drip on ___. 
On ___, the heparin drip was discontinued and rivaroxaban 
was started. We recommend a 3 month course of anticoagulation 
for provoked submassive PE (Rivaroxaban 15 mg BID for 21 days 
(___), Rivaroxaban 20 mg daily for the rest of the 3 months 
___ - ___. Notably, she does not have insurance 
coverage for medications. After lengthy discussion, family opted 
to pay out of pocket for the rivaroxaban rather than try 
lovenox/warfarin, despite the increase in cost. At the time of 
discharge, she was ambulating well on room air. Her hospital 
course was NOT complicated by any hemodynamic instability, 
although she did have tachycardia to 110s on ambulation. A TTE 
was performed and demonstrated "Normal biventricular cavity 
sizes with preserved regional and global biventricular systolic 
function. Normal estimated PA systolic pressure. No valvular 
pathology or pathologic flow identified."

# Hematuria: Pink urine was noticed by patient on ___. She 
did not have pain, frequency or urgency with urination. No CVA 
tenderness on exam. UA was notable for 5 RBCs, large leuks, and 
few bacteria, but also 9 epis so likely contaminated. We 
recommend outpatient repeat UA for workup of microscopic 
hematuria. 

# Nausea: Patient had early morning nausea and dry-heaving that 
she says has been ongoing since the surgery. She received Zofran 
x1 and a script for Zofran was faxed to her pharmacy. Nausea may 
be due to pharyngeal irritation by postnasal drip or anxiety. 

# HTN: Continued home amlodipine 2.5 mg daily

# General wellness: Patient reports not taking vitamin D or 
calcium, so these were taken off her medication list.

Transitional issue:
[ ] Rivaroxaban 15 mg BID for first 21 days (___), 
Rivaroxaban 20 mg daily for the rest of the 3 months ___ - 
___
[ ] Please evaluate need for longer course of anticoagualation, 
beyond the recommended 3 months, if she demonstrates further 
symptoms or signs of instability 
[ ] F/up hematuria with repeat UA (had gross hematuria on 
___ x1, also had UA with 5 RBCs but 9 epis)
[ ] Please follow-up on the liver lesions ("multiple cysts in 
the liver" found on her outpatient CTA Chest. ___ need further 
imaging for characterization

#Code Status: Full Code 
#Emergency Contact/HCP: Sons ______) and ___ 

 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Calcium Carbonate 1250 mg PO DAILY 
2. Vitamin D 1000 UNIT PO DAILY 
3. amLODIPine 2.5 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. TraMADol 50 mg PO TID 
6. Aspirin 325 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
2.  Ondansetron ODT 4 mg PO DAILY:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth daily Disp #*7 Tablet 
Refills:*0 
3.  Rivaroxaban 15 mg PO BID 
Ends on ___  
4.  Rivaroxaban 20 mg PO DAILY 
Starts on ___. Continue for 3 months, ending ___  
5.  amLODIPine 2.5 mg PO DAILY  
6.  Docusate Sodium 100 mg PO BID  
7.  TraMADol 50 mg PO TID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses:
Provoked submassive pulmonary embolism
Hematuria

Secondary diagnoses:
Hypertension
Nausea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear. Ms. ___,

You were admitted on ___ for a pulmonary embolism caused by 
a clot from your leg. Clots can form after a major surgery such 
as a hip replacement surgery. You were given blood thinner and 
supplemental oxygen. With your improving oxygen level, 
supplemental oxygen was no longer needed.  

You also had an episode of light pink urine. Lab results were 
reassuring. Please follow up with your primary care doctor. 

Please see your primary care doctor within the week after you 
leave the hospital. 

You were provided with 2 weeks of Rivaroxaban through our ___ 
Specialty Pharmacy in ___. You can pick that up any time 
during business hours. You should call the ___ Financial 
Counseling office at ___ to discuss obtaining 
"clearance" for another 2 week supply. You can also email them 
at ___.

We wish you a speedy recovery,
___ Team
 
Followup Instructions:
___